US07018988B2
(2S,4EZ)-1-[(benzoylamino)carbonyl]-N-benzyl-4-[(benzyloxy)imino]-N-methyl-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, benzoyl isocyanate, and N-benzyl-N-methylamine the title compound was obtained in 40% purity by LC/MS. MS(ESI+): m/z=485.4.

reactant | (2S,4EZ)-4-[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C1=CC=CC=C1)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H22N2O5
reactant | benzoyl isocyanate | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
reactant | N-benzyl-N-methylamine | C(C1=CC=CC=C1)NC | C8H11N
product | (2S,4EZ)-1-[(benzoylamino)carbonyl]-N-benzyl-4-[(benzyloxy)imino]-N-methyl-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)(=O)NC(=O)N1[C@@H](CC(C1)=NOCC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1 | C28H28N4O4
